US05716624
Synthesis of 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]phenylsulfonylmethane
Following the basic procedure of Example 32, by reacting 1.21 g (5 mmol) of α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol with 1.18 g (5 mmol) of 4-bromophenylsulfonylmethane, 610 mg (31%) of the expected sulfone compound, with a melting point of 112°-113° C., were obtained.

reactant | α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | 5 mmol, 1.21 g | C(#C)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O
reactant | 4-bromophenylsulfonylmethane | 5 mmol, 1.18 g | BrC1=CC=C(C=C1)S(=O)(=O)C | C7H7BrO2S
product | 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]phenylsulfonylmethane | OC(C#CC1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H28O3S
